US07858800B2
2) Production of isopropyl 4-[1-phenyl-1H-[1,2,3]-triazol-4-yl]-1,2,3,6-tetrahydropyridine-1-carboxylate
4-[1-phenyl-1H-[1,2,3]triazol-4-yl]-1,2,3,6-tetra-hydropyridine (35 mg) prepared in the above 1) was dissolved in 1 ml of pyridine and 1 ml of chloroform, 32 μl of isopropyl chloroformate was added and the mixture was stirred at room temperature for 1 hour. After an excessive reagent was decomposed by addition of methanol, the reaction solution was concentrated in vacuo and the resulting residue was separated and purified by a preparative thin-layer chromatography (chloroform/methanol 60/1) to give 47 mg of the title compound as a white solid.

reactant | 4-[1-phenyl-1H-[1,2,3]triazol-4-yl]-1,2,3,6-tetra-hydropyridine | 35 mg | C1(=CC=CC=C1)N1N=NC(=C1)C=1CCNCC1 | C13H14N4
reactant | isopropyl chloroformate | 32 μl | ClC(=O)OC(C)C | C4H7ClO2
reactant | methanol | CO | CH4O
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
solvent | chloroform | 1 ml | C(Cl)(Cl)Cl | CHCl3
product | isopropyl 4-[1-phenyl-1H-[1,2,3]-triazol-4-yl]-1,2,3,6-tetrahydropyridine-1-carboxylate | 47 mg | C1(=CC=CC=C1)N1N=NC(=C1)C=1CCN(CC1)C(=O)OC(C)C | C17H20N4O2
